US08541431B2
2-Phenylacetamidine (3a)
Ammonium chloride (2.9 g, 54 mmol) was suspended in 20 mL of anhydrous toluene, stirred under argon, and cooled to 0° C. To this suspension was added 25 ml (50 mmol) of a 2M solution of trimethylaluminum in toluene. The reaction was allowed to warm to room temperature and stirring continued until the evolution of methane ceased (˜1 hour). Then, 3.46 mL (30 mmol) of benzyl cyanide in 10 mL of anhydrous toluene was added and the reaction was heated to 80° C. for 18 hours. The reaction was then cooled to room temperature and slowly poured into a slurry of 15 g of silica gel in 50 mL of chloroform and stirred for 5 minutes. The silica was filtered and washed with methanol. The filtrate and washings were combined and reduced to a volume of ˜15 mL and refiltered. Then, 18 mL (54 mmol) of a 3N solution of methanolic HCl was added to the filtrate followed by 400 mL of diethyl ether. After 16 hours of stirring at room temperature, a white precipitate formed and was subsequently filtered. This crude solid was then added to 150 mL of a 4:1 mixture of isopropanol-acetone and stirred for an additional 16 hours at room temperature. Undissolved ammonium chloride was then removed by filtration and the filtrate reduced to ˜15 mL, and 300 mL of diethyl ether was added and the mixture stirred for ˜1 hour. The white precipitate was then filtered and dried to yield 3.7 g (72%) of the objective compound as the hydrochloride salt. MS: (ESI, Pos) m/z 157.9 (M+23) 1H NMR (500 MHz, DMSO-d6): δ (ppm) 9.06 (br.d, 3H), 7.49 (d, 2H), 7.36 (t, 2H), 7.31 (t, 1H), 3.74 (s, 2H).

reactant | Ammonium chloride | 54 mmol, 2.9 g | [Cl-].[NH4+]
reactant | trimethylaluminum | C[Al](C)C
reactant | methane | C | CH4
reactant | benzyl cyanide | 30 mmol, 3.46 mL | C(C1=CC=CC=C1)C#N | C8H7N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Phenylacetamidine | 3.7 g, 72% | C1(=CC=CC=C1)CC(=N)N | C8H10N2
